US07622471B2
4,7-Diazaspiro[2.5]octane hydrochloride
1.04M Borane-tetrahydrofuran complex in tetrahydrofuran (24.7 mL) was added dropwise to 4,7-diazaspiro[2.5]octane-5,8-dione (1.2 g) in tetrahydrofuran (30 mL) at 0° C. over a period of 30 minutes, and the resultant mixture was refluxed under heat for 13 hours. To the reaction mixture, methanol (4 mL) and 4N HCl-dioxane (8 mL) were added at 0° C., and the mixture was refluxed under heat for 1 hour, and then cooled in air. The precipitated solid was recovered by filtration, and washed with tetrahydrofuran, to thereby give a product mixture containing the title compound (1.86 g).

reactant | 4,7-diazaspiro[2.5]octane-5,8-dione | 1.2 g | C1CC12NC(CNC2=O)=O | C6H8N2O2
reactant | methanol | 4 mL | CO | CH4O
reactant | HCl dioxane | 4N, 8 mL | Cl.O1CCOCC1
solvent | tetrahydrofuran | 24.7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4,7-Diazaspiro[2.5]octane hydrochloride | 1.86 g | Cl.C1CC12NCCNC2 | InChI=1S/C6H12N2.ClH/c1-2-6(1)5-7-3-4-8-6;/h7-8H,1-5H2;1H
